US08445501B2
trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(cyclopropanecarbonyl-amino)cyclohexyl]-amide
Starting from trans-4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide hydrochloride (example A173) and cyclopropanecarbonyl chloride the title compound is obtained as colorless solid.

reactant | trans-4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(cyclopropanecarbonyl-amino)cyclohexyl]-amide | C1(CC1)C(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1 | C29H33N5O5
